US04143049
Preparing 2,3,5-triphenyltetrazolium chloride hydrochloride
5 g (0.015 M) of 1,3,5-triphenylformazan and 0.7 g (0.015 M) of sodium hydroxide were mixed in 100 ml of absolute ethyl alcohol and 0.96 liter (0.042 M) of chlorine gas was passed through for 45 minutes at a temperature of 05° C. Activated carbon was added, the components mixed, the mixture passed through a filter, the filtrate evaporated, the residue dissolved in water, treated with activated carbon, filtered, and the filtrate evaporated. The obtained crystals were white with a creamy tint. The yield of the end produce was 4.8 g (85 percent).

reactant | 1,3,5-triphenylformazan | 0.015 M, 5 g | C1(=CC=CC=C1)N=NC(=NNC1=CC=CC=C1)C1=CC=CC=C1 | C19H16N4
reactant | sodium hydroxide | 0.015 M, 0.7 g | [OH-].[Na+]
reactant | chlorine | 0.042 M, 0.96 liter | ClCl | Cl2
solvent | ethyl alcohol | 100 ml | C(C)O | C2H6O
product | 2,3,5-triphenyltetrazolium chloride hydrochloride | Cl.[Cl-].C1(=CC=CC=C1)N1[NH2+]C(=NN1C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C19H16N4.2ClH/c1-4-10-16(11-5-1)19-20-22(17-12-6-2-7-13-17)23(21-19)18-14-8-3-9-15-18;;/h1-15H,(H,20,21);2*1H
